US07074799B2
Combine (6-bromo-phthalazin-1-yl)-(4-tert-butyl-phenyl)-amine (60 mg, 0.19 mmol), 2-(trifluoromethyl)phenyl-boronic acid (50 mg, 0.26 mmol) in 1,2-dimethoxyethane (10 mL) and bubble nitrogen into the mixture for 10 minutes. Add tetrakis(triphenylphosphine)palladium(0) (12 mg, 0.01 mmol) and 2M Na2CO3 (1 mL) and heat at 80 C. for 48 hours. Let the mixture cool to room temperature, dilute with water (10 mL), and extract twice with EtOAc (10 mL each). Dry (Na2SO4), evaporate, and purify on a preparative silica gel plate (2000 micron) eluting with 75% hexane-EtOAc to provide (4-tert-butyl-phenyl)-[6-(2-trifluoromethyl-phenyl)-phthalazin-1-yl]-amine as a straw colored solid. Mass Spec. 421.2.

reactant | (6-bromo-phthalazin-1-yl)-(4-tert-butyl-phenyl)-amine | 0.19 mmol, 60 mg | BrC=1C=C2C=NN=C(C2=CC1)NC1=CC=C(C=C1)C(C)(C)C | C18H18BrN3
reactant | 2-(trifluoromethyl)phenyl-boronic acid | 0.26 mmol, 50 mg | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
reactant | Na2CO3 | 2M, 1 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
solvent | water | 10 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.01 mmol, 12 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (4-tert-butyl-phenyl)-[6-(2-trifluoromethyl-phenyl)-phthalazin-1-yl]-amine | C(C)(C)(C)C1=CC=C(C=C1)NC1=NN=CC2=CC(=CC=C12)C1=C(C=CC=C1)C(F)(F)F | C25H22F3N3
